Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Left leg claudication
 
Major Surgical or Invasive Procedure:
Lt BK Pop- ___ bypass with NRSVG 

 
History of Present Illness:
This ___ gentleman suffered a
penetrating injury from a gunshot wound to the left lower
extremity about ___ years ago.  He required an arterial
reconstruction in his left leg, at the level of the knee
joint, with a right saphenous vein graft.  He did well for a
number of years, but recently has developed severe disabling
claudication.  An arteriogram was done and this showed his
superficial femoral and above-knee popliteal arteries to be
patent.  The popliteal artery at the knee joint and involving
the entire below-knee popliteal artery was totally occluded.
There was reconstitution of an anterior tibial and peroneal
and posterior tibial arteries distally; however, they were
not all connected to one another.  The best target vessel
appeared to be the posterior tibial artery.

 
Past Medical History:
HTN with past admit for HTN urgency  
Possible GERD  
s/p GSW to L leg in ___  
s/p hemorrhoid surgery  
CRI

 
Social History:
___
Family History:
Paternal aunts may have had MI; HTN in father's side of family, 
many. No 1st degree relatives with known CAD
 
Physical Exam:
PE:

AFVSS

NEURO:

PERRL / EOMI

MAE equally

Answers simple commands

Neg pronator drift

Sensation intact to ST

2 plus DTR

___

___:

NCAT 

Neg lesions nares, oral pharnyx, auditory

Supple / FAROM

neg lyphandopathy, supra clavicular nodes

LUNGS: CTA b/l

CARDIAC: RRR without murmers

ABDOMEN: Soft, NTTP, ND, pos BS, neg CVA tenderness

EXT:

rle - palp fem, pop, pt, dp

lle - palp fem, pop, pt, dp

Graft palp

 
Pertinent Results:
___ 05:43AM BLOOD 

WBC-10.9 RBC-3.99* Hgb-12.2* Hct-34.4* MCV-86 MCH-30.6 
MCHC-35.5* RDW-13.4 Plt ___

___ 04:17AM BLOOD 

ALT-17 AST-20 AlkPhos-50 TotBili-0.3

___ 05:43AM BLOOD 

Calcium-9.4 Phos-4.0 Mg-2.0
 
Brief Hospital Course:
Mr. ___ was admitted on ___ with _Left leg 
claudication. He agreed to have an elective surgery. 
Pre-operatively, he was consented. A CXR, EKG, UA, CBC, 
Electrolytes, T/S - were obtained,  all other preperations were 
made.
 
He underwent a Left above-knee popliteal to posterior tibial 
artery bypass with nonreversed saphenous vein and angioscopy.
 
He was prepped, and brought down to the operating room for 
surgery. Intra-operatively, he was closely monitored and 
remained hemodynamically stable. He tolerated the procedure well 
without any difficulty or complication.
 
Post-operatively, he was extubated and transferred to the PACU 
for further stabilization and monitoring. 
 
He was then transferred to the VICU for further recovery. While 
in the VICU he recieved monitered care. When stable he was 
delined. His diet was advanced. A ___ consult was obtained. When 
he was stabalized from the acute setting of post operative care, 
he was transfered to floor status 
 
On the floor, he remained hemodynamically stable with his pain 
controlled. He progressed with physical therapy to improve her 
strength and mobility. He continues to make steady progress 
without any incidents. He was discharged home in stable 
condition.
 
To note on admission his creatinine was 2.2. Newly diagnosed 
CRI. He is to followup with his PCP.
 
Medications on Admission:
___: Lisinopril 20' 
 
Discharge Medications:
1. Propoxyphene N-Acetaminophen 100-650 mg Tablet Sig: One (1) 
Tablet PO Q4H (every 4 hours) as needed for 10 days.
Disp:*30 Tablet(s)* Refills:*0*
2. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).
Disp:*30 Tablet, Chewable(s)* Refills:*6*
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*6*
5. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 10 
days.
Disp:*20 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for 10 days.
Disp:*20 Tablet(s)* Refills:*0*
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) for 10 days.
Disp:*20 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Claudication
CRF

 
Discharge Condition:
Good

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Lower Extremity Bypass Surgery Discharge Instructions

What to expect when you go home:
1. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!

2. It is normal to have swelling of the leg you were operated 
on:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated

3. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•No driving until post-op visit and you are no longer taking 
pain medications
•Unless you were told not to bear any weight on operative foot: 

•You should get up every day, get dressed and walk
•You should gradually increase your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed
•Take all the medications you were taking before surgery, 
unless otherwise directed
•Take one full strength (325mg) enteric coated aspirin daily, 
unless otherwise directed 
•Call and schedule an appointment to be seen in 2 weeks for 
staple/suture removal

What to report to office:
•Redness that extends away from your incision
•A sudden increase in pain that is not controlled with pain 
medication
•A sudden change in the ability to move or use your leg or the 
ability to feel your leg
•Temperature greater than 100.5F for 24 hours
•Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

 
Followup Instructions:
___